US07282501B2
Step D: 3-(2-Cyclohexylcarbamoyloxymethyl-4-hydroxyphenyl)propionic acid tert-butyl ester
A 500 mL round bottomed flask was charged with 3-[4-(tert-butyldiphenylsilanyloxy)-2-cyclohexylcarbamoyloxymethylphenyl]propionic acid tert-butyl ester (3.1 g, 5.03 mmol) and anhydrous THF (180 mL). Tetrabutylammonium fluoride (15.1 mL, 15.1 mmol, 1.0M in THF) was added, and the reaction mixture was stirred at ambient temperature under a nitrogen atmosphere for 4 h. The mixture was concentrated, and the residue was diluted with EtOAc (100 mL), washed with brine, dried over (Na2SO4), and concentrated to give an oil. This crude oil was purified using the Biotage medium pressure chromatography system (EtOAc:hexanes 10:90 to 50:50) to a colorless oil (1.67 g, 88%). 1H NMR (400 MHz, CDCl3) δ 1.04-1.19 (m, 3H), 1.24-1.38 (m, 2H), 1.42 (s, 9H), 1.57-1.62 (m, 1H), 1.66-1.71 (m, 2H), 1.91-2.05 (m, 2H), 2.47 (t, J=7.8 Hz, 2H), 2.88 (t, J=7.8 Hz, 2H), 3.48-3.50 (m, 1H), 4.77-4.78 (m, 1H), 5.07 (s, 2H), 5.40 (s, 1H), 6.73 (dd, J=8.3, 2.9 Hz, 1H), 6.84 (d, J=2.4 Hz, 1H), 7.07 (d, J=8.3 Hz, 1H). MS (ES) m/e 378 (M+1).

reactant | 3-[4-(tert-butyldiphenylsilanyloxy)-2-cyclohexylcarbamoyloxymethylphenyl]propionic acid tert-butyl ester | 5.03 mmol, 3.1 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)COC(NC1CCCCC1)=O)=O | C37H49NO5Si
reactant | Tetrabutylammonium fluoride | 15.1 mmol, 1.0M, 15.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 180 mL | C1CCOC1 | C4H8O
product | 3-(2-Cyclohexylcarbamoyloxymethyl-4-hydroxyphenyl)propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)COC(NC1CCCCC1)=O)=O | C21H31NO5
